US07820680B2
Step 2: N-{2-[2-(4-Fluorobenzyl)-9-hydroxy-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino [1,2-c]pyrimidine-4-yl]ethyl}-N-methylacetamide
To a stirred solution of 4-{2-[acetyl(methyl)amino]ethyl}-2-(4-fluorobenzyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidine-9-yl acetate (28 mg, 0.057 mmol) in MeOH (2 mL) at ambient temperature under inert atmosphere was added potassium carbonate (48 mg, 0.344 mmol). After 1.5 h, the solvent was removed in vacuo and the residue treated with 1 N aqueous HCl solution and MeOH. The solvent was again removed in vacuo and the residue suspended in CH2Cl2. The mixture was filtered through a cotton plug, and the filtrate was concentrated in vacuo to give an orange oil. Purification by reverse phase chromatography [95:5 water (+0.1% TFA)/MeCN (+0.1% TFA) to 5:95 water (+0.1% TFA)/MeCN (+0.1% TFA)] afforded the title compound as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 11.76 (br s, 1H), 7.39-7.36 (m, 2H), 7.09-7.05 (m, 2H), 5.16 (dt, J=6.8, 13.6 Hz, 1H), 4.97 (d, J=14.0 Hz, 1H), 4.43 (d, J=11.2 Hz, 1H), 4.35 (d, J=14.4 Hz, 1H), 3.84 (br s, 1H), 1.77-1.70 (m, 1H), 1.46 (dd, J=1.6, 6.8 Hz, 6H). HRMS (FT/ES) M+H: calcd for (C22H27FN4O5)+ 447.2038. found 447.2031.

reactant | 4-{2-[acetyl(methyl)amino]ethyl}-2-(4-fluorobenzyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidine-9-yl acetate | 0.057 mmol, 28 mg | C(C)(=O)OC1=C2N(C(N(C1=O)C(C)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)CCN(C)C(C)=O | C24H29FN4O6
reactant | potassium carbonate | 0.344 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 2 mL | CO | CH4O
product | N-{2-[2-(4-Fluorobenzyl)-9-hydroxy-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino [1,2-c]pyrimidine-4-yl]ethyl}-N-methylacetamide | FC1=CC=C(CN2C(C=3N(C(N(C(C3O)=O)C(C)C)=O)C(C2)CCN(C(C)=O)C)=O)C=C1 | C22H27FN4O5
